US08211908B2
To a suspension of 1.0 g of 1-(trifluoroacetyl)piperidin-4-amine hydrochloride in 20 mL of dichloromethane, 0.71 g of 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde and 0.25 mL of acetic acid were added, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, 1.37 g of sodium triacetoxyborohydride was added, and the mixture was stirred at the same temperature for 30 minutes. The solvent was distilled off under reduced pressure, water and ethyl acetate were then added thereto, and the mixture was adjusted to pH 1.5 with 1 mol/L hydrochloric acid. The aqueous layer was separated and washed with ethyl acetate, thereto was added ethyl acetate, and the aqueous layer was adjusted to pH 7.8 with a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 1.4 g of N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-1-(trifluoroacetyl)piperidin-4-amine as a colorless oily substance.

reactant | 1-(trifluoroacetyl)piperidin-4-amine hydrochloride | 1.0 g | Cl.FC(C(=O)N1CCC(CC1)N)(F)F
reactant | 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde | 0.71 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | acetic acid | 0.25 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.37 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-1-(trifluoroacetyl)piperidin-4-amine | 1.4 g | O1CCOC2=C1C=CC(=C2)CNC2CCN(CC2)C(C(F)(F)F)=O | C16H19F3N2O3
